US08067447B2
(E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylacrylate was dissolved in 30 mL EtOH in a Parr bottle and flushed with N2. 10% Pd on carbon was added and the reaction was put on a Parr shaker under 50 psi of H2 for 7 hours. LC-MS after this time indicated that the reaction was complete so the catalyst was filtered off and the solution concentrated in vacuo. The residue was purified using a 40 g MPLC column using a 10 to 25% EtOAc in hexanes gradient to give methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoate (1.1 g, 64%). MS found: (M+H)+=375.

reactant | (E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylacrylate | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(=C/C(=O)OC)/C1=CC=CC=C1 | C23H17FN2O2
solvent | EtOH | 30 mL | CCO | C2H6O
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoate | 1.1 g, 64% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(=O)OC)C1=CC=CC=C1 | C23H19FN2O2
